Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
cyclobenzaprine
 
Attending: ___.
 
Chief Complaint:
left rib fractures, tiny pneumothorax
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ years old male who presented to ___ today as a transfer 
from ___ s/p mechanical fall with left ___ and 5th rib fx 
and  tiny left pneumothorax. Patient reports no LOC, no HS, no 
headaches. At ___ patient underwent CT chest, head and C 
spine - with only positive findings as mentioned above. Upon
evaluation patient comfortable in the bed, reports no SOB, no 
chills no fevers, reports minimal pain.

 
Past Medical History:
PMH:
Afib no AC
CLL just being monitored
legally blind
arthritis

PSH:
R inguinal hernia ___ years ago
tonsilecomy ___ years ago

 
Social History:
___
Family History:
non contributory   
 
Physical Exam:
Admission Physical Exam:

Vitals: afebrile, hemodynamically stable,
Gen: NAD, A&O x 3
CV: Afib, no cardiac distress,
Pulm: clear breath sounds bilat.,
Abd: soft, nontender, nondistended, no palpable masses or
hernias,
Ext: warm and well perfused

Discharge Physical Exam:
VS: T: 97.5 PO BP: 108/64 R Sitting HR: 82 RR: 18 O2: 93% Ra 
GEN: A+Ox3, NAD
HEENT: atraumatic
CV: RRR
PULM: CTA b/l
CHEST: no crepitus 
ABD: soft, non-distended, non-tender to palpation 
EXT: no edema b/l 
 
Pertinent Results:
IMAGING:

___: CXR:
Post pleurodesis changes are seen to the right lung.  Left-sided 
pneumothorax is not visualized in the study. 

___: CXR:
The left pneumothorax is not appreciated on the study.  
Otherwise, stable 
appearance of the chest. 

___: CXR:
Stable mild pulmonary edema without significant acute change. 
  

LABS:

___ 04:50AM   GLUCOSE-107* UREA N-22* CREAT-1.0 SODIUM-143 
POTASSIUM-4.2 CHLORIDE-106 TOTAL CO2-27 ANION GAP-10
___ 04:50AM   CALCIUM-9.1 PHOSPHATE-3.6 MAGNESIUM-1.9
___ 04:50AM   WBC-23.5* RBC-3.14* HGB-9.8* HCT-31.5* 
MCV-100* MCH-31.2 MCHC-31.1* RDW-14.8 RDWSD-53.8*
___ 04:50AM   PLT COUNT-149*
___ 05:35PM   GLUCOSE-124* UREA N-27* CREAT-1.0 SODIUM-142 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-26 ANION GAP-11
___ 05:35PM   WBC-18.1* RBC-3.33* HGB-10.3* HCT-33.9* 
MCV-102* MCH-30.9 MCHC-30.4* RDW-14.8 RDWSD-55.6*
___ 05:35PM   NEUTS-22* LYMPHS-77* MONOS-1* EOS-0* BASOS-0 
AbsNeut-3.98 AbsLymp-13.94* AbsMono-0.18* AbsEos-0.00* 
AbsBaso-0.00*
___ 05:35PM   MACROCYT-2+* OVALOCYT-1+* TEARDROP-1+* 
ELLIPTOCY-1+*
___ 05:35PM   PLT SMR-NORMAL PLT COUNT-146*
___ 04:54PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:54PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:54PM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 04:54PM URINE  HYALINE-1*
___ 04:54PM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
___ y/o M who sustained a mechanical fall and initially presented 
to ___ where he was found on imaging to have left ___ and 
5th rib fractures and a tiny left pneumothorax. The patient was 
transferred to ___ for further care.  He was admitted to the 
Acute Care Surgery service for pain control, pulmonary toilet, 
incentive spirometry and to work with physical therapy.

Pain was managed with acetaminophen and tramadol. He was resumed 
on his home medications. He remained stable from a 
cardiopulmonary standpoint; vital signs were routinely 
monitored. Good pulmonary toilet, early ambulation and incentive 
spirometry were encouraged throughout hospitalization. The 
patient received subcutaneous heparin and ___ dyne boots were 
used during this stay and was encouraged to get up and ambulate 
as early as possible. Physical Therapy evaluated the patient and 
recommended discharge to rehab. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prazosin 2 mg PO BID 
2. Tamsulosin 0.4 mg PO QHS 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Heparin 5000 UNIT SC BID 
Consider discontinuing this medication at rehab once the patient 
is more mobile.   
3.  TraMADol 12.5 mg PO Q6H:PRN pain 
Wean as tolerated 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*3 Tablet Refills:*0 
4.  Finasteride 5 mg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Prazosin 2 mg PO BID  
7.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Mechanical fall
-Left ___ and 5th rib fractures
-Tiny left pneumothorax 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after 
a fall. You were found to have left-sided rib fractures and a 
small puncture of your left lung resulting in abnormal air in 
the lining of the space around the lung.  You were given pain 
medication and your breathing was monitored.   You had chest 
x-rays performed which showed the puncture of your lung healed 
and that your lungs are stable. Your rib fractures will heal on 
their own.  You worked with physical therapy and it is 
recommended that you be discharged to rehab to continue your 
recovery. You are now ready to be discharged from the hospital. 

Please follow the discharge instructions below:

* Your injury caused left-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 10 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
 
Followup Instructions:
___